*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 4.1
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_0 1 2 3 4 REF
C_C1 1 REF 0.6687780726858pf
C_C2 1 2 18.180188125198pf
C_C3 1 3 0.0296221946214pf
C_C4 1 4 0.2493655670491pf
C_C5 2 REF 0.9036055442903pf
C_C6 2 3 0.1289401825555pf
C_C7 3 REF 0.6369192652644pf
C_C8 3 4 5.2255284936474pf
C_C9 4 REF 0.6424489594356pf
L_L1 3 5 1.2969998561499nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_1 1 2 3 4 REF
C_C1 1 REF 0.5723568534027pf
C_C2 1 2 18.60331812818pf
C_C3 1 3 0.0271958026732pf
C_C4 1 4 0.2540654768008pf
C_C5 2 REF 0.8147377357927pf
C_C6 2 3 0.1294559180248pf
C_C7 3 REF 0.6388647256993pf
C_C8 3 4 3.8668267123434pf
C_C9 4 REF 0.6414261362568pf
L_L1 3 5 1.2980925284069nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_2 1 2 3 4 REF
C_C1 1 REF 0.4961331595145pf
C_C2 1 2 19.073249508373pf
C_C3 1 3 0.0247680698392pf
C_C4 1 4 0.2592466078188pf
C_C5 2 REF 0.7464763445103pf
C_C6 2 3 0.1301181952047pf
C_C7 3 REF 0.6406633185452pf
C_C8 3 4 2.9158575216214pf
C_C9 4 REF 0.6408671195685pf
L_L1 3 5 1.2990041108771nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_3 1 2 3 4 REF
C_C1 1 REF 0.4254474093902pf
C_C2 1 2 19.721771493453pf
C_C3 1 3 0.021727730075pf
C_C4 1 4 0.2664422536213pf
C_C5 2 REF 0.6864374758093pf
C_C6 2 3 0.1311963556132pf
C_C7 3 REF 0.6426653405876pf
C_C8 3 4 2.0953153160866pf
C_C9 4 REF 0.6406125960827pf
L_L1 3 5 1.2999283922738nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_4 1 2 3 4 REF
C_C1 1 REF 0.3677607005377pf
C_C2 1 2 20.566885782705pf
C_C3 1 3 0.0181140302164pf
C_C4 1 4 0.2759474348457pf
C_C5 2 REF 0.6424559792343pf
C_C6 2 3 0.1328506129945pf
C_C7 3 REF 0.6446705583134pf
C_C8 3 4 1.4355514931895pf
C_C9 4 REF 0.640674312014pf
L_L1 3 5 1.3008543942907nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_5 1 2 3 4 REF
C_C1 1 REF 0.3314419785228pf
C_C2 1 2 21.492914560221pf
C_C3 1 3 0.0144752507913pf
C_C4 1 4 0.2865229937846pf
C_C5 2 REF 0.6211608911642pf
C_C6 2 3 0.1349505582336pf
C_C7 3 REF 0.6462541062919pf
C_C8 3 4 0.9972331601616pf
C_C9 4 REF 0.6409485803314pf
L_L1 3 5 1.3016043881092nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_6 1 2 3 4 REF
C_C1 1 REF 0.3092571032515pf
C_C2 1 2 22.505568846418pf
C_C3 1 3 0.0107481261961pf
C_C4 1 4 0.2982244505142pf
C_C5 2 REF 0.6154754098499pf
C_C6 2 3 0.1375241633841pf
C_C7 3 REF 0.6474521416568pf
C_C8 3 4 0.695707674627pf
C_C9 4 REF 0.6413063125158pf
L_L1 3 5 1.3022222125113nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_7 1 2 3 4 REF
C_C1 1 REF 0.294390740821pf
C_C2 1 2 23.81894645306pf
C_C3 1 4 0.3135148681825pf
C_C4 2 REF 0.6220434996578pf
C_C5 2 3 0.1411968005426pf
C_C6 3 REF 0.6484263930415pf
C_C7 3 4 0.4538831427144pf
C_C8 4 REF 0.6417384156209pf
L_L1 3 5 1.3028067949816nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_8 1 2 3 4 REF
C_C1 1 REF 0.2847083935896pf
C_C2 1 2 25.498262005692pf
C_C3 1 4 0.333105665973pf
C_C4 2 REF 0.6396366692636pf
C_C5 2 3 0.146266182593pf
C_C6 3 REF 0.6491025147647pf
C_C7 3 4 0.2665288877698pf
C_C8 4 REF 0.642188172292pf
L_L1 3 5 1.303360506364nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_9 1 2 3 4 REF
C_C1 1 REF 0.2768616264175pf
C_C2 1 2 27.694143134665pf
C_C3 1 4 0.3586224777303pf
C_C4 2 REF 0.6669717438929pf
C_C5 2 3 0.1533264972357pf
C_C6 3 REF 0.6494337324771pf
C_C7 3 4 0.1273350260698pf
C_C8 4 REF 0.6426144127294pf
L_L1 1 5 79.800835066926nh
R_RL1 5 2 5.4744557272888
L_L2 3 6 1.3038253497367nh
R_RL2 6 4 -1.058147882e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_10 1 2 3 4 REF
C_C1 1 REF 0.2664091653906pf
C_C2 1 2 30.580413186766pf
C_C3 1 4 0.3918630701671pf
C_C4 2 REF 0.7018201502961pf
C_C5 2 3 0.1630358163436pf
C_C6 3 REF 0.6494415587214pf
C_C7 3 4 0.0256009612406pf
C_C8 4 REF 0.6429982265424pf
L_L1 1 5 49.944742174471nh
R_RL1 5 2 2.7015286383967
L_L2 3 6 1.3042169988381nh
R_RL2 6 4 -1.258623342e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_11 1 2 3 4 REF
C_C1 1 REF 0.2479893660456pf
C_C2 1 2 34.53663966145pf
C_C3 1 4 0.4368546296313pf
C_C4 2 REF 0.7439354199419pf
C_C5 2 3 0.1767821342162pf
C_C6 3 REF 0.6491561788505pf
C_C7 4 REF 0.6433514670148pf
L_L1 1 5 30.873729507043nh
R_RL1 5 2 0.9591552313732
L_L2 3 6 1.3042028867561nh
R_RL2 6 4 -1.397655251e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_12 1 2 3 4 REF
C_C1 1 REF 0.2157325507433pf
C_C2 1 2 40.116965148273pf
C_C3 1 4 0.4995005740336pf
C_C4 2 REF 0.7950357995348pf
C_C5 2 3 0.1965517176232pf
C_C6 3 REF 0.6486367975729pf
C_C7 4 REF 0.6437211667339pf
L_L1 1 5 18.986954580206nh
R_RL1 5 2 -1.165502840413
L_L2 3 6 1.3039160165551nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_13 1 2 3 4 REF
C_C1 1 REF 0.1597105732477pf
C_C2 1 2 48.579349809745pf
C_C3 1 4 0.5934217610342pf
C_C4 2 REF 0.8629535853159pf
C_C5 2 3 0.2268367610708pf
C_C6 3 REF 0.6479121832204pf
C_C7 4 REF 0.644211583705pf
L_L1 1 5 10.813541375839nh
R_RL1 5 2 -0.039229588509
L_L2 3 6 1.3033974542482nh
R_RL2 6 4 -1.346324734e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_14 1 2 3 4 REF
C_C1 1 REF 0.0629424450299pf
C_C2 1 2 62.310931067439pf
C_C3 1 4 0.7446485208369pf
C_C4 2 REF 0.9648644792525pf
C_C5 2 3 0.276131029473pf
C_C6 3 REF 0.646981757964pf
C_C7 4 REF 0.6450234955775pf
R_R1 1 2 425.70355617386
L_L1 1 5 6.0205231581829nh
R_RL1 5 2 0.1829406724864
L_L2 3 6 1.3025609561411nh
R_RL2 6 4 -1.043843258e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_15 1 2 3 4 REF
C_C1 1 2 87.868508001991pf
C_C2 1 4 1.0249233316872pf
C_C3 2 REF 1.148622791934pf
C_C4 2 3 0.3678192885579pf
C_C5 3 REF 0.6457143302032pf
C_C6 4 REF 0.6466760183693pf
R_R1 1 2 179.8523686774
L_L1 1 5 2.9669361265825nh
R_RL1 5 2 -0.270828068
L_L2 3 6 1.3009839966346nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_16 1 2 3 4 REF
C_C1 1 2 151.33109430807pf
C_C2 1 4 1.7198397734913pf
C_C3 2 REF 1.602866299119pf
C_C4 2 3 0.5950910352148pf
C_C5 3 REF 0.6434254607868pf
C_C6 4 REF 0.6511928559669pf
R_R1 1 2 64.442679567791
L_L1 1 5 1.1751433346402nh
R_RL1 5 2 -0.15358125004
L_L2 1 6 52.479717456835nh
R_RL2 6 3 -0.18103553371
L_L3 1 7 51.752738749191nh
R_RL3 7 4 -0.181937322583
L_L4 2 8 52.584638120113nh
R_RL4 8 3 0.0147747812883
L_L5 2 9 51.860820788268nh
R_RL5 9 4 0.0144569369501
L_L6 3 10 1.2971858727491nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0681401344505
Kn_K2 L_L1 L_L3 0.0684143621453
Kn_K3 L_L1 L_L4 -0.081419198326
Kn_K4 L_L1 L_L5 -0.08218788963
Kn_K5 L_L2 L_L3 0.9875788963452
Kn_K6 L_L2 L_L4 0.9888155071667
Kn_K7 L_L2 L_L5 0.9762920660583
Kn_K8 L_L2 L_L6 -0.122664523534
Kn_K9 L_L3 L_L4 0.9763658067804
Kn_K10 L_L3 L_L5 0.9886589399344
Kn_K11 L_L3 L_L6 0.0347964469582
Kn_K12 L_L4 L_L5 0.9876039716441
Kn_K13 L_L4 L_L6 -0.122350699492
Kn_K14 L_L5 L_L6 0.034952888131
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_17 1 2 3 4 REF
C_C1 1 2 422.85035717799pf
C_C2 1 4 4.6923207171926pf
C_C3 2 REF 3.5512388919016pf
C_C4 2 3 1.5667204145806pf
C_C5 3 REF 0.6357503965587pf
C_C6 4 REF 0.6719348332599pf
R_R1 1 2 11.891692302937
R_R2 1 4 903.84360673614
R_R3 2 4 -904.8015401754
L_L1 1 5 33.652157757245nh
R_RL1 5 REF -1.002994832957
L_L2 1 6 0.2851522040039nh
R_RL2 6 2 -0.062774874236
L_L3 1 7 15.095585998162nh
R_RL3 7 3 -0.054316373908
L_L4 1 8 14.417808783777nh
R_RL4 8 4 -0.055856219687
L_L5 2 9 33.455682011658nh
R_RL5 9 REF -1.119486513409
L_L6 2 10 15.153280066918nh
R_RL6 10 3 0.0021845112771
L_L7 2 11 14.479785731795nh
R_RL7 11 4 0.0021358027935
L_L8 3 12 48.41503470632nh
R_RL8 12 REF -1.090124727184
L_L9 3 13 1.2811843407218nh
R_RL9 13 4 1.0e-5
L_L10 4 14 47.728638273444nh
R_RL10 14 REF -1.092640940906
Kn_K1 L_L1 L_L2 0.0777386262271
Kn_K2 L_L1 L_L5 0.9957551039011
Kn_K3 L_L1 L_L8 0.8295912048193
Kn_K4 L_L1 L_L10 0.8354276478127
Kn_K5 L_L2 L_L3 0.0548160988001
Kn_K6 L_L2 L_L4 0.0550336159603
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082466534658
Kn_K9 L_L2 L_L7 -0.085416477536
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9568420831332
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9905749292692
Kn_K15 L_L3 L_L7 0.9470996675435
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.222723025802
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9474694111174
Kn_K21 L_L4 L_L7 0.990134597599
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0701980418278
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8288659301729
Kn_K26 L_L5 L_L10 0.834643271614
Kn_K27 L_L6 L_L7 0.9570122480973
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.221812615854
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0705448345922
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1249127126645
Kn_K35 L_L8 L_L10 0.9866994189878
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_18 1 2 3 4 REF
C_C1 1 REF 27.830898255586pf
C_C2 1 3 13.537656492855pf
C_C3 2 4 41.548133707056pf
C_C4 3 REF 0.7431563791368pf
C_C5 4 REF 0.338262659016pf
R_R1 1 REF -93.73607200482
R_R2 1 2 0.5272057673378
R_R3 1 3 -122.3079699025
R_R4 1 4 51.792305517561
R_R5 2 REF 93.28282907288
R_R6 2 3 122.33050235935
R_R7 2 4 -51.80523930942
L_L1 1 5 2.6434526982915nh
R_RL1 5 REF -8.031598771e-3
L_L2 1 6 0.0807327209234nh
R_RL2 6 2 -0.220942289668
L_L3 1 7 1.9379341670765nh
R_RL3 7 3 -0.084542368249
L_L4 1 8 1.391391900081nh
R_RL4 8 4 -0.135483877665
L_L5 2 9 2.6934471291448nh
R_RL5 9 REF -0.225725142294
L_L6 2 10 1.9241480018207nh
R_RL6 10 3 -0.031922500212
L_L7 2 11 1.3637471551336nh
R_RL7 11 4 -0.010286646347
L_L8 3 12 4.5723417272205nh
R_RL8 12 REF -0.090049887049
L_L9 3 13 1.0957454416048nh
R_RL9 13 4 -5.939773717e-3
L_L10 4 14 4.0326034216319nh
R_RL10 14 REF -0.140623209472
Kn_K1 L_L1 L_L2 0.0332689536753
Kn_K2 L_L1 L_L5 0.984915946628
Kn_K3 L_L1 L_L8 0.7590541852279
Kn_K4 L_L1 L_L10 0.809298757187
Kn_K5 L_L2 L_L3 0.1194797471519
Kn_K6 L_L2 L_L4 0.1616811784668
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.084928647971
Kn_K9 L_L2 L_L7 -0.079997137752
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0232974879989
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6801072318645
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9791023013404
Kn_K16 L_L3 L_L7 0.6578954538859
Kn_K17 L_L3 L_L8 0.8865210275009
Kn_K18 L_L3 L_L9 -0.563501271939
Kn_K19 L_L3 L_L10 0.9452030958254
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6494212343797
Kn_K22 L_L4 L_L7 0.9707462741078
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2223942076027
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.761063897921
Kn_K27 L_L5 L_L10 0.8135315536124
Kn_K28 L_L6 L_L7 0.6766343633042
Kn_K29 L_L6 L_L8 0.9004427622062
Kn_K30 L_L6 L_L9 -0.570288516491
Kn_K31 L_L6 L_L10 0.9625191804233
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2189685091125
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3653356556116
Kn_K36 L_L8 L_L10 0.8743827096734
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_19 1 2 3 4 REF
C_C1 1 2 2230.9729133336pf
C_C2 1 4 24.551301513408pf
C_C3 2 REF 16.668310570887pf
C_C4 2 3 7.9753554470295pf
C_C5 3 REF 0.5877223695993pf
C_C6 4 REF 0.8143016356342pf
R_R1 1 REF 100.76136558589
R_R2 1 2 -0.615248802976
R_R3 1 3 150.14523064175
R_R4 1 4 -59.15129162573
R_R5 2 REF -101.4054258321
R_R6 2 3 -150.1938237878
R_R7 2 4 59.166486000495
L_L1 1 5 3.7155962641585nh
R_RL1 5 REF -0.01798485292
L_L2 1 6 0.0245014446849nh
R_RL2 6 2 0.0171004701273
L_L3 1 7 2.4642456541909nh
R_RL3 7 3 0.0055834671636
L_L4 1 8 1.8653795075258nh
R_RL4 8 4 0.0084760909773
L_L5 2 9 3.686968087074nh
R_RL5 9 REF -6.598779245e-3
L_L6 2 10 2.4732125697847nh
R_RL6 10 3 0.0029342330326
L_L7 2 11 1.8808378800347nh
R_RL7 11 4 0.0013571694086
L_L8 3 12 6.1453523917807nh
R_RL8 12 REF -0.016087635549
L_L9 3 13 1.149067980265nh
R_RL9 13 4 3.1600712281e-4
L_L10 4 14 5.5400750391888nh
R_RL10 14 REF -0.01400998191
Kn_K1 L_L1 L_L2 0.0880433630983
Kn_K2 L_L1 L_L5 0.9966975944021
Kn_K3 L_L1 L_L8 0.7739635904859
Kn_K4 L_L1 L_L10 0.8144407745003
Kn_K5 L_L2 L_L3 0.0316104188996
Kn_K6 L_L2 L_L4 0.0211498141022
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.067979485128
Kn_K9 L_L2 L_L7 -0.093072626406
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.019343874933
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.741733017929
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9950392810321
Kn_K16 L_L3 L_L7 0.7350707572262
Kn_K17 L_L3 L_L8 0.9503701557139
Kn_K18 L_L3 L_L9 -0.519373999988
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.738282083023
Kn_K22 L_L4 L_L7 0.993468142217
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1879038054552
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7730135211574
Kn_K27 L_L5 L_L10 0.8127192554193
Kn_K28 L_L6 L_L7 0.7430007612696
Kn_K29 L_L6 L_L8 0.9438240881954
Kn_K30 L_L6 L_L9 -0.51650627489
Kn_K31 L_L6 L_L10 0.9923034839758
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1893378531767
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3300949140305
Kn_K36 L_L8 L_L10 0.9028786076968
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_20 1 2 3 4 REF
C_C1 1 2 149.37596720251pf
C_C2 1 4 1.6942479114085pf
C_C3 2 REF 1.5879700045312pf
C_C4 2 3 0.5873157680138pf
C_C5 3 REF 0.640509547987pf
C_C6 4 REF 0.6476932139241pf
R_R1 1 2 -53.92622775691
L_L1 1 5 85.403093103031nh
R_RL1 5 REF -8.179319985866
L_L2 1 6 0.2642119600778nh
R_RL2 6 2 0.0273153271851
L_L3 1 7 25.241504238111nh
R_RL3 7 3 -0.012735062873
L_L4 1 8 24.511832502891nh
R_RL4 8 4 -0.012425463213
L_L5 2 9 84.443049702236nh
R_RL5 9 REF -8.205015291311
L_L6 2 10 25.449471583972nh
R_RL6 10 3 0.0135208690626
L_L7 2 11 24.728268286976nh
R_RL7 11 4 0.0127506716188
L_L8 3 12 1.2874458539471nh
R_RL8 12 4 4.6136708198e-5
Kn_K1 L_L1 L_L2 0.1288632209061
Kn_K2 L_L1 L_L5 0.9984603546324
Kn_K3 L_L2 L_L3 0.0108897295451
Kn_K4 L_L2 L_L5 1.0
Kn_K5 L_L2 L_L6 -0.091046096924
Kn_K6 L_L2 L_L7 -0.094020774478
Kn_K7 L_L3 L_L4 0.9742282036153
Kn_K8 L_L3 L_L5 1.0
Kn_K9 L_L3 L_L6 0.9947961631164
Kn_K10 L_L3 L_L7 0.9688297032973
Kn_K11 L_L3 L_L8 -0.176920891033
Kn_K12 L_L4 L_L5 1.0
Kn_K13 L_L4 L_L6 0.9692830194138
Kn_K14 L_L4 L_L7 0.9946438202281
Kn_K15 L_L4 L_L8 0.0496450538826
Kn_K16 L_L6 L_L7 0.9744429474354
Kn_K17 L_L6 L_L8 -0.175456805775
Kn_K18 L_L7 L_L8 0.0501777487181
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_21 1 2 3 4 REF
C_C1 1 REF 0.1817266068273pf
C_C2 1 2 47.648999618343pf
C_C3 1 4 0.5770134460897pf
C_C4 2 REF 0.8594589136749pf
C_C5 2 3 0.2234685481668pf
C_C6 3 REF 0.6423307670272pf
C_C7 4 REF 0.6385796547152pf
R_R1 1 2 -403.4782285435
L_L1 1 5 0.727499424364nh
R_RL1 5 2 -0.250606890265
L_L2 1 6 84.473939445335nh
R_RL2 6 3 -0.282985259992
L_L3 1 7 83.529326645296nh
R_RL3 7 4 -0.278843348221
L_L4 2 8 85.626393082198nh
R_RL4 8 3 -0.969251165824
L_L5 2 9 84.688408848165nh
R_RL5 9 4 -0.961289689149
L_L6 3 10 1.2952585728463nh
R_RL6 10 4 1.6579296243e-5
Kn_K1 L_L1 L_L2 -0.02710406574
Kn_K2 L_L1 L_L3 -0.027682052869
Kn_K3 L_L1 L_L4 -0.119095913004
Kn_K4 L_L1 L_L5 -0.120175874572
Kn_K5 L_L2 L_L3 0.99230596267
Kn_K6 L_L2 L_L4 0.9957459696921
Kn_K7 L_L2 L_L5 0.9880041140421
Kn_K8 L_L2 L_L6 -0.107066466966
Kn_K9 L_L3 L_L4 0.9881571610325
Kn_K10 L_L3 L_L5 0.9956988881187
Kn_K11 L_L3 L_L6 0.0168554706643
Kn_K12 L_L4 L_L5 0.9924099653313
Kn_K13 L_L4 L_L6 -0.106028809551
Kn_K14 L_L5 L_L6 0.0170561734621
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_22 1 2 3 4 REF
C_C1 1 REF 0.3766758680536pf
C_C2 1 2 21.811401192902pf
C_C3 1 3 0.0334563451243pf
C_C4 1 4 0.2908332164424pf
C_C5 2 REF 0.680713160579pf
C_C6 2 3 0.129119316605pf
C_C7 3 REF 0.6423817348523pf
C_C8 4 REF 0.6357640702347pf
L_L1 1 5 1.0298011190392nh
R_RL1 5 2 -7.818444885e-3
L_L2 3 6 1.2956230279524nh
R_RL2 6 4 1.1085641887e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_23 1 2 3 4 REF
C_C1 1 REF 0.4529293583564pf
C_C2 1 2 12.337079260049pf
C_C3 1 3 0.0733552033307pf
C_C4 1 4 0.1850368386448pf
C_C5 2 REF 0.621949889424pf
C_C6 2 3 0.0923559013324pf
C_C7 3 REF 0.6416093448624pf
C_C8 4 REF 0.6339072961549pf
L_L1 1 5 1.4459715516353nh
R_RL1 5 2 -0.022747504941
L_L2 3 6 1.2934527104702nh
R_RL2 6 4 -2.027970402e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_24 1 2 3 4 REF
C_C1 1 REF 0.4883745036059pf
C_C2 1 2 8.3845851061423pf
C_C3 1 3 0.0960706595906pf
C_C4 1 4 0.1395669716667pf
C_C5 2 REF 0.602628723112pf
C_C6 2 3 0.0740641574039pf
C_C7 2 4 0.0415177054296pf
C_C8 3 REF 0.639903000197pf
C_C9 4 REF 0.6314998524633pf
L_L1 1 5 1.7856128072172nh
R_RL1 5 2 -7.633105263e-3
L_L2 3 6 1.2908187668664nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_25 1 2 3 4 REF
C_C1 1 REF 0.5088080681564pf
C_C2 1 2 6.9073009793649pf
C_C3 1 3 0.1148502328746pf
C_C4 1 4 0.1175232911161pf
C_C5 2 REF 0.6040397625225pf
C_C6 2 3 0.0606912034185pf
C_C7 2 4 0.0692496191983pf
C_C8 3 REF 0.637831116037pf
C_C9 4 REF 0.6289011761434pf
L_L1 1 5 1.9086836153488nh
R_RL1 5 2 -6.626468286e-4
L_L2 3 6 1.2875004310572nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_26 1 2 3 4 REF
C_C1 1 REF 0.5174625005774pf
C_C2 1 2 6.7492649763041pf
C_C3 1 3 0.1286067531217pf
C_C4 1 4 0.1091656042583pf
C_C5 2 REF 0.6129935691344pf
C_C6 2 3 0.0512052961358pf
C_C7 2 4 0.0821072735258pf
C_C8 3 REF 0.6361816343965pf
C_C9 4 REF 0.6269007448235pf
L_L1 1 5 1.9063072606606nh
R_RL1 5 2 5.2662350247e-5
L_L2 3 6 1.2860797175079nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param18_26

